US06251936B1
4-[2-Bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenoxy]-butyramide 0.4 hydrate
A solution of 4-[2-bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenoxy]-butyric acid (60 mg, 0.12 mmol), oxalyl chloride (10.8 μL, 0.12 mmol), N,N-dimethylformamide (2.0 μL), and methylene chloride (1.0 mL) was stirred at room temperature. After 2.5 h a saturated solution of ammonia in acetonitrile (5 mL) was added and the resulting mixture was stirred at room temperature for 2 days. Concentration under reduced pressure gave a residue, which was suspended in 3% ethanol in water (31 mL) and stirred at room temperature for 18 h. The slurry was filtered, washed well with water, and air dried to give the title compound as an off-white solid (52.6 mg, 88%): NMR (DMSO-d6): δ8.00 (d, J=8 Hz, 1H), 7.98 (s, 1H), 7.49 (d, J=8 Hz, 1H), 7.45 (d, J=2 Hz, 1H), 7.43 (ddd, J=1, 7, 8 Hz, 1H), 7.35 (ddd overlapping with a br s, J=1, 7, 8 Hz, 2H), 7.25 (d, J=2 Hz, 1H), 6.79 (br s, 1H), 4.01 (dd, J=6, 9 Hz, 1H), 3.96 (dd, J=6, 9 Hz, 1H), 2.75 (d of quartets, J=7, 15 Hz, 1H), 2.71 (d of quartets, J=7, 15 Hz, 1H), 2.38 (s, 3H), 2.35 (t, J=7 Hz, 2H), 2.04 (quintet, J=7 Hz, 2H), 1.56 (s, 3H), 1.19 (t, J=7 Hz, 3H); MS(+ESI): [M+H]+, 1 bromine isotope pattern, 480/482; Anal. Calc. for C26H26BrNO3Y0.4H2O: C, 64.04; H, 5.54; N, 2.87. Found: C, 64.01; H, 5.43; N, 2.89.

reactant | 4-[2-bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenoxy]-butyric acid | 0.12 mmol, 60 mg | BrC1=C(OCCCC(=O)O)C(=CC(=C1)C1=C2C=CC=CC2=CC=2OC(=C(C21)C)C)CC | C26H25BrO4
reactant | oxalyl chloride | 0.12 mmol, 10.8 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 2.0 μL | CN(C=O)C | C3H7NO
reactant | ammonia | N | H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
solvent | water | 31 mL | O | H2O
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-Bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenoxy]-butyramide | 52.6 mg, 88% | BrC1=C(OCCCC(=O)N)C(=CC(=C1)C1=C2C=CC=CC2=CC=2OC(=C(C21)C)C)CC | C26H26BrNO3
